US06239284B1
A solution of 3-bromophenol (17.3 g, 100 mmol) in 30 ml of THF is added at ambient temperature to a 50% solution of sodium hydride dispersed in mineral oil (5 g, 125 mmol) in 50 ml of anhydrous THF. The mixture was stirred at ambient temperature for 30 minutes before successively adding a solution of methyl bromoacetate (10.4 ml, 110 mmol) in 33 ml of anhydrous THF and sodium iodide (3.75 g, 25 mmol). The reaction medium is stirred for 30 minutes at ambient temperature and then treated with 30 ml of water at 0° C. The raw product is purified by chromatography on silica (eluent petroleum ether:ether 100:10). 19.66 g of methyl 3-bromophenoxyacetate is obtained (yield=80%).

reactant | 3-bromophenol | 100 mmol, 17.3 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | sodium hydride | [H-].[Na+]
reactant | methyl bromoacetate | 110 mmol, 10.4 ml | BrCC(=O)OC | C3H5BrO2
reactant | sodium iodide | 25 mmol, 3.75 g | [I-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 33 ml | C1CCOC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | methyl 3-bromophenoxyacetate | 19.66 g, yield=80% | BrC=1C=C(OCC(=O)OC)C=CC1 | C9H9BrO3
